US09376454B2
Step 6. Synthesis of (R)-2-Hydroxy-3-[2-(2-methyl-2,3-dihydro-1H-isoindol-5-yl)-acetylamino]-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
To a mixture of 2-Methoxy-3-[2-[2-(2-methyl-2,3-dihydro-1H-isoindol-5-yl)-acetylamino]-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-benzoic acid (0.113 g, 0.207 mmol) and 1,4-dioxane (2.0 mL) was added 3N HCl (1.7 mL, 5.10 mmol) and the reaction was heated at 100° C. for 1 hr. The reaction was cooled to room temperature and extracted with diethyl ether (3×). The product remained in the aqueous layer and was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 381 (MH)+.

reactant | 2-Methoxy-3-[2-[2-(2-methyl-2,3-dihydro-1H-isoindol-5-yl)-acetylamino]-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-benzoic acid | 0.207 mmol, 0.113 g | COC1=C(C(=O)O)C=CC=C1CC(B1OC2(C3C(C(CC2O1)C3)(C)C)C)NC(CC=3C=C1CN(CC1=CC3)C)=O | C31H39BN2O6
reactant | HCl | 5.10 mmol, 3N, 1.7 mL | Cl | ClH
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | (R)-2-Hydroxy-3-[2-(2-methyl-2,3-dihydro-1H-isoindol-5-yl)-acetylamino]-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | OB1OC2=C(C[C@@H]1NC(CC=1C=C3CN(CC3=CC1)C)=O)C=CC=C2C(=O)O | C20H21BN2O5
